US06239152B1
5-(S)-Acetamidomethyl-3-[4′-(4″-morpholinophenylamino)carbonyl-3′-fluorophenyl]-oxazolidine-2-one
BAL resin immobilized 5-(S)-acetamidomethyl-3-[4′-(pentafluorophenyl)oxycarbonyl-3′-fluorophenyl]oxazolidine-2-one (0.100 g, 0.029 mmol) was agitated with 4-morpholinoaniline (0.155 mg, 0.87 mmol) in 10% pyridine in dimethylformamide (2 ml) for 24 h. The resin was filtered and washed liberally with dimethylformamide, MeOH, DCM, and dried under vacuum. The dry resin was cleaved in 60% trifluoroacetic acid in dichloromethane (2 ml) for 2 h at room temperature. The supernatant was evaporated under vacuum, and the crude product was purified by preparative TLC (eluent: 10% methanol in dichloromethane to give product as a white solid. Yield 6.6 mg (50%). MS (m/z): 457.2 [M+H]+. 1H NMR.

reactant | 5-(S)-acetamidomethyl-3-[4′-(pentafluorophenyl)oxycarbonyl-3′-fluorophenyl]oxazolidine-2-one | 0.029 mmol, 0.100 g | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)F | C19H12F6N2O5
reactant | 4-morpholinoaniline | 0.87 mmol, 0.155 mg | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-(S)-Acetamidomethyl-3-[4′-(4″-morpholinophenylamino)carbonyl-3′-fluorophenyl]-oxazolidine-2-one | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)NC1=CC=C(C=C1)N1CCOCC1)F | C23H25FN4O5
